US07402595B2
4-[(2-hydroxypropylamino)methyl]benzoic acid ethyl ester
To a solution (100 ml) of 4-formylbenzoic acid methyl ester (10.0 g) and (±)-1-amino-2-propanol (4.6 g) in THF was added anhydrous magnesium sulfate (11.2 g) at room temperature and the mixture was stirred for 3 hrs. The reaction mixture was filtered, and methanol (100 ml) was added to the filtrate under ice-cooling. Sodium borohydride (4.6 g) was added and the mixture was stirred for 1 hr. The reaction mixture was allowed to warm to room temperature and stirred for 12 hrs. and concentrated under reduced pressure. To the residue was added saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained crystal was washed with diisopropyl ether to give the title compound (8.5 g).

reactant | 4-formylbenzoic acid methyl ester | 100 ml, 10.0 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | (±)-1-amino-2-propanol | 4.6 g | NCC(C)O | C3H9NO
reactant | magnesium sulfate | 11.2 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | THF | C1CCOC1 | C4H8O
product | 4-[(2-hydroxypropylamino)methyl]benzoic acid ethyl ester | 8.5 g | C(C)OC(C1=CC=C(C=C1)CNCC(C)O)=O | C13H19NO3
